* source CAP_FILTER
D_D3         N17438 N17270 D1N4148 
D_D4         0 N17258 D1N4148 
L_L2         N17258 N17438  25uH  
Kn_K1         L_L1 L_L2     1
V_V1         N17278 0  AC 1
+SIN 0 380 50 0 0 0
R_R1         N17270 0  1k TC=0,0 
D_D5         0 N17438 D1N4148 
R_R2         N17286 N17278  5 TC=0,0 
D_D2         N17258 N17270 D1N4148 
L_L1         N17286 0  50mH  
C_C1         0 N17270  100u  TC=0,0 
