* source SERIES_VOLTAGE_REGULATOR_CIRCUIT
D_D4         0 N19916 D1N4148 
D_D6         0 N20601 D1N4617 
L_L1         N19944 0  50mH  
C_C2         N20088 0  100u  TC=0,0 
D_D3         N20196 N19928 D1N4148 
R_R1         N20605 0  10k TC=0,0 
R_R3         N20601 N20088  100 TC=0,0 
R_R2         N19944 N19936  5 TC=0,0 
L_L3         N20088 N19928  10uH  
C_C1         N19928 0  50u  TC=0,0 
D_D5         0 N20196 D1N4148 
V_V1         N19936 0  AC 1
+SIN 0 {amp} 50 0 0 0
Kn_K1         L_L1 L_L2     1
L_L2         N19916 N20196  25uH  
D_D2         N19916 N19928 D1N4148 
Q_Q1         N20088 N20601 N20605 QbreakN 
C_C3         0 N20605  10u  TC=0,0 
.PARAM  amp=380
