* source EASY
L_L1         N18940 0  50mH  
D_D3         N19148 N18924 D1N4148 
L_L2         N18912 N19148  25uH  
C_C1         N18924 0  50u  TC=0,0 
V_V1         N18932 0  AC 1
+SIN 0 {amp} 50 0 0 0
R_R1         N19348 0  1k TC=0,0 
C_C2         N19068 0  100u  TC=0,0 
D_D4         0 N18912 D1N4148 
L_L3         N19068 N18924  10uH  
D_D2         N18912 N18924 D1N4148 
R_R2         N18940 N18932  5 TC=0,0 
Kn_K1         L_L1 L_L2     1
D_D5         0 N19148 D1N4148 
R_R3         N19068 N19348  100 TC=0,0 
D_D6         0 N19348 D1N4617 
.PARAM  amp=380
