* source TRANSISTOR
Q_Q1         N14478 N14464 N14452 QbreakN 
R_R1         N14478 N14407  4.7k TC=0,0 
R_R2         N14464 N14407  20k TC=0,0 
R_R3         0 N14464  4k TC=0,0 
V_V1         N14407 0 5
C_C1         N14538 N14464  10u  TC=0,0 
R_R4         0 N14658  10k TC=0,0 
V_V3         N14538 0  AC 1
+SIN 0 20m 2k 0 0 0
R_R5         0 N14452  1.5k TC=0,0 
C_C2         0 N14452  100u  TC=0,0 
C_C3         N14478 N14658  10u  TC=0,0 
